US05567843
To 10 grams (0.05 mole) of 4-nitrophenylchloroxime are added 150 milliliters of ethanol and a catalytic amount of 4-(N,N-dimethyl)aminopyridine. 4.0 grams of 2-amino-4-nitrophenol are added to the mixture. The mixture is stirred under nitrogen at room temperature for ninety minutes, at which time another 3.7 grams of 1-amino-4-nitrophenol are added. The mixture is then stirred overnight at room temperature under a nitrogen blanket, cooled to 20° C. and filtered to yield 2-(p-nitrophenyl)-5-nitrobenzoxazole.

reactant | 2-amino-4-nitrophenol | 4.0 grams | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | 1-amino-4-nitrophenol | 3.7 grams | NC1(CC=C(C=C1)[N+](=O)[O-])O | C6H8N2O3
reactant | ethanol | 150 milliliters | C(C)O | C2H6O
catalyst | 4-(N,N-dimethyl)aminopyridine | CN(C)C1=CC=NC=C1 | C7H10N2
product | 2-(p-nitrophenyl)-5-nitrobenzoxazole | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C13H7N3O5
